US04629787
Dissolve 10.45 g of Nα -Boc-Nε -Cbz-L-lysine in 125 ml methanol and 17 ml water. Neutralize the solution with 27.5 ml of 0.5M cesium carbonate solution and concentrate the resulting solution to a syrup at aspirator pressure and 35° C. Dissolve the syrup in 100 ml. dimethylformamide and concentrate; repeat once more. Dissolve the residue in 75 ml. dimethylformamide and 2.7 ml. methyi iodide. Stir the reaction mixture overnight at room temperature then remove the dimethylformamide under vacuum (oil pump). Add 250 ml. water to the residue and extract into 150 ml. ethyl acetate. Wash the ethyl acetate extract twice with 100 ml. portions of water then dry the organic phase over MgSO4. Filter and concentrate the dried solution in vacuo to obtain Nα -Boc-Nε -Cbz-L-lysine methyl ester.

reactant | Nα -Boc-Nε -Cbz-L-lysine | 10.45 g | C(=O)(OC(C)(C)C)N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C19H28N2O6
reactant | cesium carbonate | 0.5M, 27.5 ml | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | methanol | 125 ml | CO | CH4O
solvent | water | 17 ml | O | H2O
product | Nα -Boc-Nε -Cbz-L-lysine methyl ester | COC([C@@H](NC(=O)OC(C)(C)C)CCCCNC(=O)OCC1=CC=CC=C1)=O | C20H30N2O6
